US05177089
N-(1-benzylpyrrolidin-3-yl)phthalimide
10.0 g of 3-amino-1-benzylpyrrolidine was dissolved into 10 ml of chloromethane, to which 12.4 g of N-ethoxycarbonylphthalimide was added and stirred at a room temperature for 10 hours. The solvent was distilled off, diethyl ether was added and insoluble matters were filtered out. The filtrate was concentrated and purified on silica gel column chromatography, to obtain 12.70 g of the above-captioned compound (yield: 73%)

reactant | 3-amino-1-benzylpyrrolidine | 10.0 g | NC1CN(CC1)CC1=CC=CC=C1 | C11H16N2
reactant | N-ethoxycarbonylphthalimide | 12.4 g | C(C)OC(=O)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | chloromethane | 10 ml | ClC | CH3Cl
product | N-(1-benzylpyrrolidin-3-yl)phthalimide | 12.70 g, yield: 73% | C(C1=CC=CC=C1)N1CC(CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C19H18N2O2
